US06355653B1
N-(2-Phenyl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-5-yl)-2-o-tolyl-acetamide
The title compound, MS m/e (%): 420 (M+H+, 100), was prepared in accordance with the general method of example 31 from 2-phenyl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin ylamine and o-tolylacetyl chloride.

reactant | 2-phenyl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin ylamine | C1(=CC=CC=C1)C1=NN2C(C=C(C=C2N)C2=CC=NC=C2)=N1 | C17H13N5
reactant | o-tolylacetyl chloride | C1(=C(C=CC=C1)CC(=O)Cl)C | C9H9ClO
product | N-(2-Phenyl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-5-yl)-2-o-tolyl-acetamide | C1(=CC=CC=C1)C1=NN2C(C=C(C=C2NC(CC2=C(C=CC=C2)C)=O)C2=CC=NC=C2)=N1 | C26H21N5O
